US04551534
4-(2,3-Dichloro-6-fluorophenyl)-7-[3-(2,3-dimethylphenoxy)-2-hydroxypropyl]1,4,5,6,7,8-hexahydro-2-methyl-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester
4-(2,3-Dichloro-6-fluorophenyl)-1,4,5,6,7,8-hexahydro-2-methyl-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester (12.1 g), 5.3 g of 3-(2,3-dimethylphenoxy)-1,2-epoxypropane and 150 ml of methanol were combined and refluxed for 18 hours. The alcohol was evaporated in vacuo. The residue was chromatographed on silica-gel using a 5% methanol-ethyl acetate system. The residue obtained on evaporation was dissolved in methanol and saturated with hydrogen chloride. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. A precipitate formed on standing at room temperature. The solid was separated and treated with boiling acetonitrile. The solid was dried in vacuo to obtain 2.8 g of the title compound as the hydrochloride salt, m.p. 190°-3° C.

reactant | 4-(2,3-Dichloro-6-fluorophenyl)-1,4,5,6,7,8-hexahydro-2-methyl-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester | 12.1 g | COC(=O)C1=C(NC=2CNCC(C2C1C1=C(C(=CC=C1F)Cl)Cl)=O)C | C17H15Cl2FN2O3
reactant | 3-(2,3-dimethylphenoxy)-1,2-epoxypropane | 5.3 g | CC1=C(OCC2CO2)C=CC=C1C | C11H14O2
solvent | methanol | CO | CH4O
solvent | hydrogen chloride | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 4-(2,3-Dichloro-6-fluorophenyl)-7-[3-(2,3-dimethylphenoxy)-2-hydroxypropyl]1,4,5,6,7,8-hexahydro-2-methyl-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester | 2.8 g | COC(=O)C1=C(NC=2CN(CC(C2C1C1=C(C(=CC=C1F)Cl)Cl)=O)CC(COC1=C(C(=CC=C1)C)C)O)C | C28H29Cl2FN2O5
